US06262058B1
In a sulfonation flask, 12.5 g (0.15 mol) of sodium propylate and 12.0 g (0.05 mol) 2-methylsulfanyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one are stirred in 120 ml of absolute n-propanol for 4 hours under nitrogen at reflux temperature. The n-propanol is then removed in a water-jet vacuum and the residue taken up in ethyl acetate/water and the organic phase is extracted twice with water. The organic phase is dried over sodium sulfate and the solvent removed in the water-jet vacuum, giving the crude product, which is then purified by column chromatography over silica gel (eluant: ethyl acetate/hexane=1:3). 6.7 g of 2-propoxy-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one are obtained in the form of a brown resin (1H-NMR-data see table 1 1).

reactant | sodium | 0.15 mol, 12.5 g | [Na] | Na
reactant | 2-methylsulfanyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one | 0.05 mol, 12.0 g | CSC=1N(C(C2=C(N1)SC=C2)=O)CCC | C10H12N2OS2
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
product | 2-propoxy-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one | 6.7 g | C(CC)OC=1N(C(C2=C(N1)SC=C2)=O)CCC | C12H16N2O2S
